US09085534B2
3-{[(5-methylfuran-2-yl)methyl]amino}pyridine-4-carboxylic acid
The title compound was prepared in 34% yield from 5-methylfurfurylamine and 3-fluoroisonicotinic acid according to the procedure for the preparation of Example 3. 1H NMR (400 MHz, DMSO-d6): δ 13.45 (br s, 1H), 8.35 (s, 1H), 7.86 (d, 1H, J=5.0 Hz), 7.77 (br s, 1H), 7.57 (d, 1H, J=5.0 Hz), 6.24 (d, 1H, J=2.9 Hz), 6.00 (d, 1H, J=2.0 Hz), 4.50 (s, 2H), 2.23 (s, 3H). [M+H] calc'd for C12H12N2O3, 233; found 233.

reactant | 5-methylfurfurylamine | CC1=CC=C(CN)O1 | C6H9NO
reactant | 3-fluoroisonicotinic acid | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
product | 3-{[(5-methylfuran-2-yl)methyl]amino}pyridine-4-carboxylic acid | 34% yield | CC1=CC=C(O1)CNC=1C=NC=CC1C(=O)O | C12H12N2O3
